US07582629B2
N-({4-[(2-Butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]phenyl}sulfonyl)acetamide
The title compound was prepared from 2-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide and N-[(4-aminophenyl)sulfonyl]acetamide in a similar manner as described for e.g. Examples 6-9, 22-25, 28 and 32-35. 1H NMR (500 MHz, CD3CN): δ 1.00 (t, 3H), 1.43-1.52 (m, 2H), 1.78-1.85 (m, 2H), 1.94 (s, 3H), 3.76 (t, 2H), 6.88-6.92 (m, 2H), 7.16-7.24 (m, 4H), 7.29-7.34 (m, 1H), 7.54-7.57 (m, 2H), 8.03 (bs, 1H), 9.26 (bs, 1H).

reactant | 2-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | C(CCC)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | N-[(4-aminophenyl)sulfonyl]acetamide | NC1=CC=C(C=C1)S(=O)(=O)NC(C)=O | C8H10N2O3S
product | N-({4-[(2-Butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]phenyl}sulfonyl)acetamide | C(CCC)N1S(C(=C(C1=O)NC1=CC=C(C=C1)S(=O)(=O)NC(C)=O)C1=CC=CC=C1)(=O)=O | C21H23N3O6S2
